Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
flank/abdominal pain and fevers
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Dr. ___ is a ___ male (vascular surgeon at ___,
otherwise healthy, presenting with severe abdominal pain and
fever. 

He was in his usual state of health until last week when he
developed a productive cough. He was treated for suspected
pneumonia with azithromycin.

He reports that he completed four doses of azithromycin on this
___ but then developed severe right flank pain as well 
as
diffuse myalgias throughout his body. He thought this was
rhabdomyolysis given that he has a history of rhabdo (in 
response
to Cialis) which was treated with plenty of fluids. He opted not
to take his fifth dose of azithromycin and continued to hydrate
and overall felt better. He developed a high fever T = 104 on
___ but took tylenol and remained hydrated, then went 
to
work. Then on ___, he got a flu shot (as was required per
___ and afterwards promptly felt worse again. He continued to
spike fevers requiring Tylenol and then described severe
abdominal pain which then became bilateral flank pain and
periumbilical pain. He took one dose of cipro given that he
thought he might have pyelonephritis or even a kidney stone. He
has never had a history of kidney stones. He had some nausea but
reported no vomiting or diarrhea. Given decreased PO intake, he
also reports that he had not had a bowel movement in a couple of
days.

On further questioning, he reports that he has a remote history
of urethritis with chlamydia and gonorrhea (> ___ years ago) but
nothing recently. During that episode, he presented with penile
discharge. Now, he states that he has some dysuria (and is
amenable to testing for gonorrhea and chlamydia) but denies any
penile discharge.

He also reports that his mother told him he had rheumatic heart
disease as a child, so when this presentation came on, he 
thought
he might have an endocarditis. Of note, in the past, he had
auscultated a murmur and so got a TTE at ___ but was noted to be
normal without any valvular dysfunction.

 
Past Medical History:
No active medical problems
He has never been hospitalized before
 
Social History:
___
Family History:
Father- ulcerative colitis s/p colectomy
Brother- ulcerative colitis
Other brother- healthy
Sister- healthy
No other rheumatologic or autoimmune history

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: T 98.0 BP 106 / 63 HR 86 RR 18 O2 Sat  97 Ra 
GENERAL: Alert and interactive. In no acute distress. Laying in
bed, able to ambulate without issue.
EYES: NCAT. PERRL, EOMI. 
ENT: MMM. No thyroid nodules or lymphadenopathy
CARDIAC: Tachycardic with HR 100. Normal rhythm without murmurs.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. Normal work of breathing
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.
MSK: No spinous process tenderness. No flank/CVA tenderness. No
edema in lower extremities. Pulses DP/Radial 2+ bilaterally.
SKIN: Warm. No rashes.
NEUROLOGIC: CN II-XII Grossly intact, no focal neuro deficits.
PSYCH: appropriate mood and affect

DISCHARGED PHYSICAL EXAM:
GENERAL: Alert and interactive. In no acute distress. Laying in
bed, able to ambulate without issue.
EYES: NCAT. PERRL, EOMI. 
ENT: MMM. No thyroid nodules or lymphadenopathy
CARDIAC: Normal rhythm without murmurs.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. Normal work of breathing
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.
MSK: No spinous process tenderness. No flank/CVA tenderness. No
edema in lower extremities. Pulses DP/Radial 2+ bilaterally.
SKIN: Warm. No rashes.
NEUROLOGIC: CN II-XII Grossly intact, no focal neuro deficits.
PSYCH: appropriate mood and affect

 
Pertinent Results:
___ 06:53AM BLOOD WBC-4.2 RBC-4.63 Hgb-14.4 Hct-41.2 MCV-89 
MCH-31.1 MCHC-35.0 RDW-11.6 RDWSD-37.2 Plt ___
___ 07:22AM BLOOD WBC-4.1 RBC-4.12* Hgb-12.2* Hct-36.2* 
MCV-88 MCH-29.6 MCHC-33.7 RDW-11.5 RDWSD-36.4 Plt ___
___ 09:18PM BLOOD WBC-8.3 RBC-4.72 Hgb-14.1 Hct-41.4 MCV-88 
MCH-29.9 MCHC-34.1 RDW-11.2 RDWSD-36.2 Plt ___
___ 09:18PM BLOOD Neuts-74.5* Lymphs-17.8* Monos-6.9 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-6.15* AbsLymp-1.47 
AbsMono-0.57 AbsEos-0.02* AbsBaso-0.02
___ 06:53AM BLOOD Glucose-88 UreaN-8 Creat-0.7 Na-144 K-4.4 
Cl-106 HCO3-27 AnGap-11
___ 09:18PM BLOOD ALT-22 AST-24 CK(CPK)-81 AlkPhos-53 
TotBili-0.8
___ 06:53AM BLOOD Calcium-8.9 Phos-3.2 Mg-2.1
___ 09:18PM BLOOD TSH-0.44
___ 06:53AM BLOOD CRP-67.2*
___ 07:22AM BLOOD CRP-93.2*
___ 09:18PM BLOOD CRP-82.4*
 
Brief Hospital Course:
BRIEF HOSPITAL COURSE
=====================
Dr. ___ is a ___ male (vascular surgeon at ___,
otherwise healthy, presenting with severe abdominal pain and
fever. Patient was given IV Zosyn and Tylenol for fever and 
possible infection on which he improved. His blood work was 
notable for an up-trending CRP that is a nonspecific marker for 
inflammation. All other blood work was unremarkable. Otherwise 
he was stable and was discharged. 

ACTIVE ISSUES
=============
# Fever
# Abdominal pain/ flank pain
# Diffuse myalgias
Pt presented to the ED with flank/abdominal pain and 
intermittent fevers for 1 week duration. Patient had a fever of 
103 upon arrival to the ED. Lab work was notable for an elevated 
CRP 82.4 ___ and up-trended to 93.2 ___, but declined to 67.2 
___. Lactate normalized from 2 to 0.7 with IV fluids, and CBC 
shows no evidence of leukocytosis. Otherwise, all other blood 
work was unremarkable. His Chest xray demonstrated No acute 
cardiopulmonary process. His CT abdomen and pelvis demonstrated 
No acute intra-abdominal process, no findings to explain 
patient's symptoms. During his hospital stay his tmax was 100.3 
on ___. He was treated with IV Zosyn empirically in the ED and 
his symptoms improved overall. Initial differential concerning 
for infectious etiologies such as appendicitis, peritonitis, and 
acute mesenteric ischemia,
gastroenteritis, pyelonephritis although CT was overall
unremarkable. Could also consider gastritis,
esophagitis vs peptic ulcer, notably no blood in stool per
patient. Other non-infectious causes to consider include
inflammatory bowel diseases, pancreatitis, polyarteritis nodosa,
familial Mediterranean fever- not the right demographic,
porphyria, and malignancies; he does have a strong family 
history
of IBD and had a sigmoidoscopy ___ years ago which was normal;
could consider this an early ulcerative colitis presentation. He
has no skin lesions to suggest skin infection such as porphyria.
TSH normal. Flu negative in the ED. CK normal ruling out
rhabdomyolysis. Suggested patient to follow up with a PCP for 
further immunology workup with ___ and RF. Discharged on course 
of Cipro in the event this episode represented a UTI or 
pyelonephritis.

# Dysuria 
Pt reports intermittent dysuria for the past week. He is unsure 
if he passed a stone. However, pt does not have a history of 
renal stones. UA with expanded metabolite panel is pending. 
Urine Culture is negative. He has a history of STI in the past, 
which was pending for urine gonorrhea and chlamydia. HIV ab was 
pending. During his hospital stay he did not have any urinary 
symptoms or changes. Etiology of his symptoms are unknown and 
could possibly related to passing a micro stone. Advised the 
patient to follow up with his PCP if he continues to have 
dysuria. We will reach out to him if his pending lab work is 
abnormal. 

TRANSITIONAL ISSUES
[ ] Advised patient to continue short course of cipro on 
discharge for presumed partially treated UTI (though UA here was 
negative)
[ ] blood cultures still pending on day of discharge but have 
shown no growth

>30 min spent on discharge planning including face to face time
 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q24H Duration: 3 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*10 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
======================
Fevers, flank and abdominal pain
Concern for passed renal stone or UTI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  

WHY WERE YOU HERE?
- You had fevers and flank/abdominal pain and were concerned 
about an infection.

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL?  
-  You were given antibiotics and had an infectious workup 
including CT abdomen, CBC, CRP that was notable for elevated CRP 
to ___ but CT did not show any intra-abdominal findings to 
explain your symptoms.
- We ordered rheumatological studies that are pending at time of 
discharge, however it is unlikely that your symptoms are due to 
a rheumatological etiology.
- It is possible that you had a renal stone that passed, so you 
are being discharged with a course of ciprofloxacin.
 
WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
- Take all of your medications as prescribed (listed below)  
- Follow up with your doctors as listed below  

Please see below for more information on your hospitalization. 
It was a pleasure taking part in your care here at ___. We 
wish you all the best,

- Your ___ Care Team  

 
Followup Instructions:
___